US05294734
3.70 g (15.1 mmol) of 5-ethoxy-2-formylamino-3-hydroxy-4-methylene-pentanoic acid ethyl ester are dissolved in 100 ml of 1,2-dichloroethane, and 1.8 ml (22.8 mmol) of thionyl bromide are added dropwise at room temperature. After one hour, 100 ml of water are added and the mixture is stirred vigorously for 15 minutes. The organic phase is separated off, washed in succession with 1N potassium hydrogen carbonate solution and with brine, dried over sodium sulfate, filtered and concentrated by evaporation. 5-ethoxy-4-bromomethyl-2-formylamino-pent-3-enoic acid ethyl ester is obtained in the form of a yellowish-brown oil which is reacted further in the crude state.

reactant | 5-ethoxy-2-formylamino-3-hydroxy-4-methylene-pentanoic acid ethyl ester | 15.1 mmol, 3.70 g | C(C)OC(C(C(C(COCC)=C)O)NC=O)=O | C11H19NO5
reactant | thionyl bromide | 22.8 mmol, 1.8 ml | S(=O)(Br)Br | Br2OS
reactant | water | 100 ml | O | H2O
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 5-ethoxy-4-bromomethyl-2-formylamino-pent-3-enoic acid ethyl ester | C(C)OC(C(C=C(COCC)CBr)NC=O)=O | C11H18BrNO4
